US09388185B2
Step 1. 2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-6-(1H-pyrazol-4-yl)-5H-pyrrolo[2,3-b]pyrazine
A stirred mixture of 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (180 mg, 0.358 mmol), tert-butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (106 mg, 0.360 mmol), [1,1′-bis(diphenyl-phosphino)ferrocene]dichloropalladium(II) complexed with dichloromethane (1:1) (29.2 mg, 0.0358 mmol), and potassium phosphate (153 mg, 0.719 mmol) in water (2 mL)/1,4-dioxane (5 mL) was heated at 88° C. After 1 hour, the reaction mixture was cooled to ambient temperature, quenched with water, and extracted with methylene chloride. The combined organic layers were dried over MgSO4, and then concentrated. The residue was purified on silica gel (eluting with 0 to 50% EtOAc in hexanes) to give the desired product (132 mg, 75%). LCMS calculated for C25H24N5O4S (M+H)+: m/z=490.2. Found: 490.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 0.358 mmol, 180 mg | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1S(=O)(=O)C1=CC=CC=C1 | C22H20BrN3O4S
reactant | tert-butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.360 mmol, 106 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
reactant | dichloromethane | 0.0358 mmol, 29.2 mg | ClCCl | CH2Cl2
reactant | potassium phosphate | 0.719 mmol, 153 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-6-(1H-pyrazol-4-yl)-5H-pyrrolo[2,3-b]pyrazine | 132 mg, 75% | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)N(C(=C2)C=2C=NNC2)S(=O)(=O)C2=CC=CC=C2 | C25H23N5O4S
